US07855201B2
Step 1: 2,3-dihydro-1-benzofuran-6-carbaldehyde
To an cooled solution (−78° C. internal temp) of 1 g of 6-bromo-2,3-dihydro-1-benzofuran (prepared as described by Z. J. Song, M. Zhao, L. Frey, J. Li, L. Tan, C. Y. Chen, D. M. Tschaen, R. Tillyer, E. J. J. Grabowski, R. Volante, P. J. Reider, Y. Kato, S. Okada, T. Nemoto, H. Sato, A. Akao, T. Mase, Organic Letters, 2001, Vol. 3, No. 21, 3357-3360) in 20 mL of anhydrous THF was added 4 mL of 2.5 M n-butyllithium in hexane. After stirring 10 min at −78° C., 0.5 mL of anhydrous DMF was added and the mixture allowed to warm to −20° C., quenched with 20 mL of 3N HCl and extracted into 2×50 mL of ether. Combined extracts dried over MgSO4 and concentrated under reduced pressure. Purification by flash chromatography (0-20% ethyl acetate in hexanes) gave the product as white crystalline solid. MS (m+1)=149.1; 1H NMR (400 MHz, CDCl3) 9.9 (s, 1H), 7.4 (m, 2H), 7.3 (s, 1H), 4.62 (t, 2H), 3.28 (t, 4H).

reactant | 6-bromo-2,3-dihydro-1-benzofuran | 1 g | BrC1=CC2=C(CCO2)C=C1 | C8H7BrO
reactant | n-butyllithium | 2.5 M, 4 mL | C(CCC)[Li]
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2,3-dihydro-1-benzofuran-6-carbaldehyde | O1CCC2=C1C=C(C=C2)C=O | C9H8O2
